US07176216B2
A mixture of N-(2-ethylpyrazolo[1,5-a]pyridin-3-yl)-N-tetrahydro-2H-4-pyranylmethylamine hydrochloride (10.3 g, 35 mmol) and potassium carbonate (5.8 g) in ethyl acetate (150 mL) and water (30 mL) was stirred for 8 minutes at room temperature. The organic extract was separated and then washed with brine, dried over magnesium sulfate and evaporated under reduced pressure to afford N-(2-ethylpyrazolo[1,5-a]pyridin-3-yl)-N-tetrahydro-2H-4-pyranylmethylamine (9.1 g). This compound was dissolved in tetrahydrofuran (180 mL), and then cyclopropanecarbaldehyde (7.4 g, 106 mmol) and sodium triacetoxyborohydride (10.5 g, 49.7 mmol) were added and the reaction mixture was stirred for 10 minutes. After completion of the reaction, ethyl acetate (400 mL) and water (200 mL) were added to the reaction mixture and the organic extract was separated. After extracting the aqueous layer again with ethyl acetate (200 mL), the organic extracts were combined and washed with water (100 mL) and brine (100 mL). The organic extract was dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=6:1) to afford 11.9 g of the title compound as a yellow oil (≧99% yield).

reactant | N-(2-ethylpyrazolo[1,5-a]pyridin-3-yl)-N-tetrahydro-2H-4-pyranylmethylamine hydrochloride | 35 mmol, 10.3 g | Cl.C(C)C1=NN2C(C=CC=C2)=C1NCC1CCOCC1
reactant | potassium carbonate | 5.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 30 mL | O | H2O
product | N-(2-ethylpyrazolo[1,5-a]pyridin-3-yl)-N-tetrahydro-2H-4-pyranylmethylamine | 9.1 g | C(C)C1=NN2C(C=CC=C2)=C1NCC1CCOCC1 | C15H21N3O
